US07576215B2
N-{3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}-N′-(2-FLUOROPHENYL)UREA
The title compound was prepared from 3-(3-benzyl-8-trifluoromethyl-quinolin-4-yl)-phenylamine and 2-fluorophenyl isocyanate according to the procedure of Example 65. MS (ES) m/z 513.9.

reactant | 3-(3-benzyl-8-trifluoromethyl-quinolin-4-yl)-phenylamine | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)N)C(F)(F)F | C23H17F3N2
reactant | 2-fluorophenyl isocyanate | FC1=C(C=CC=C1)N=C=O | C7H4FNO
product | N-{3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}-N′-(2-FLUOROPHENYL)UREA | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NC(=O)NC1=C(C=CC=C1)F)C(F)(F)F | C30H21F4N3O
